US08048979B2
Synthesis of Cardanol-IPDI-HEMA
Isophorone diisocyanate [IPDI] (0.73 g, 0.003 moles) in 10 ml dry DMF was taken in a 100 ml two necked flask. 2-Hydroxy ethyl methacrylate [HEMA][0.43 g, 0.003 moles] was added drop wise with constant stirring under nitrogen. The reaction mixture was allowed to proceed under room temperature for 1 and a half hours. Then 3 drops of dibutyl tin dilaurate [DBTDL] was added as catalyst followed by drop wise addition of cardanol (1 g, 0.0033 moles) in 10 ml DMF. It was left stirring at room temperature for further 2 hours. It was then heated to 55° C. and maintained at that temperature for 2 hours. Then, the contents were poured to 150 ml water and extracted with dichloromethane. It was then washed with plenty of water and dried in vacuum oven at 60° C. for 12 hours. Yield=90% (1.95 g)

reactant | Isophorone diisocyanate | 0.003 moles, 0.73 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | cardanol | 0.0033 moles, 1 g | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O | C21H30O
reactant | water | 150 ml | O | H2O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | dibutyl tin dilaurate | 3 drops | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
product | Cardanol IPDI HEMA | Yield=90% | C=CC/C=C\C/C=C\CCCCCCCC1=CC=CC(=C1)O.CC1(CC(CC(C1)(C)CN=C=O)N=C=O)C.CC(=C)C(=O)OCCO | InChI=1S/C21H30O.C12H18N2O2.C6H10O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-16-20-17-15-18-21(22)19-20;1-11(2)4-10(14-9-16)5-12(3,6-11)7-13-8-15;1-5(2)6(8)9-4-3-7/h2,4-5,7-8,15,17-19,22H,1,3,6,9-14,16H2;10H,4-7H2,1-3H3;7H,1,3-4H2,2H3/b5-4-,8-7-;;
